US09290511B2
8-(5-Bromothieno[2,3-d]pyrimidin-4-yl)-N-cyclobutyl-8-azabicyclo[3.2.1]octan-3-amine (200 mg, 0.5 mmol) in formalin solution (5 mL) and formic acid (5 mL) was heated to 80° C. for 1 h. The reaction was then concentrated in vacuum to a gum, diluted with ethyl acetate (50 mL) and 10% potassium carbonate solution (10 mL) and shaken. The ethyl acetate layer was then separated, dried over sodium sulphate and concentrated in vacuum to give a colourless gum. The gum was chromatographed on a 25 g silica column in a gradient of 2-15% methanol in dichloromethane. The slower running peak was collected to give 8-(5-bromothieno[2,3-d]pyrimidin-4-yl)-N-cyclobutyl-N-methyl-8-azabicyclo[3.2.1]octan-3-amine (165 mg, 0.405 mmol, 81%). 1H NMR (CDCl3) δ: 1.35 (2H, t, J=12 Hz), 1.5-1.7 (4H, m), 1.8-2.0 (6H, m), 2.1 (3H, s), 2.5 (2H, br m), 3.1 (2H, br m), 4.7 (2H, br m), 7.3 (1H, s), 8.4 (1H, s).

reactant | 8-(5-Bromothieno[2,3-d]pyrimidin-4-yl)-N-cyclobutyl-8-azabicyclo[3.2.1]octan-3-amine | 0.5 mmol, 200 mg | BrC1=CSC=2N=CN=C(C21)N2C1CC(CC2CC1)NC1CCC1 | C17H21BrN4S
reactant | formalin | 5 mL | C=O | CH2O
solvent | formic acid | 5 mL | C(=O)O | CH2O2
product | 8-(5-bromothieno[2,3-d]pyrimidin-4-yl)-N-cyclobutyl-N-methyl-8-azabicyclo[3.2.1]octan-3-amine | 0.405 mmol, 165 mg, 81% | BrC1=CSC=2N=CN=C(C21)N2C1CC(CC2CC1)N(C)C1CCC1 | C18H23BrN4S
